US08912186B2
By a procedure similar to that of example 1.59.2, starting from 1-(1H-indol-3-yl)-3-phenylprop-2-en-1-one and diethyl malonate, diethyl 2-[3-(1H-indol-3-yl)-3-oxo-1-phenylpropyl]malonate was obtained as yellowish solid.

reactant | 1-(1H-indol-3-yl)-3-phenylprop-2-en-1-one | N1C=C(C2=CC=CC=C12)C(C=CC1=CC=CC=C1)=O | C17H13NO
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | diethyl 2-[3-(1H-indol-3-yl)-3-oxo-1-phenylpropyl]malonate | N1C=C(C2=CC=CC=C12)C(CC(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC)=O | C24H25NO5
